US04415584
Clavulanic acid (3.0 mmole) in dry tetrahydrofuran (10 ml) and N,N-dimethylformamide dimethylacetal (0.4 g., 3.35 mmole) in dry tetrahydrofuran (10 ml) were added simultaneously to a rapidly stirred solution of hydroquinone (20 mg) in tetrahydrofuran (20 ml) at room temperature. After addition was complete (5 minutes), the mixture was decolourised using charcoal and filtered, the filter being washed well with more tetrahydrofuran. The solvent was evaporated from the filtrate under reduced pressure to yield (5R)-3-vinyl-7-oxo-4-oxa-1-azabicyclo[3.2.0]-hept-2-ene (340 mg., 2.5 mmole) as a colourless oil, which was immediately dissolved in methyl acrylate (15 ml). The resulting solution was heated at 80° (bath temperature) for 2 hours, then the methyl acrylate was evaporated under reduced pressure and the resulting residue was chromatographed on silica gel using ethyl acetate/protroleum ether (b.p. 60°-80°). Isomer I of the title compound was thus obtained as a colourless gum (84 mg), [α]D 25 =+308.5° (c 1.0, CHCl3). (Found: M+, 223.0839; C11H13NO4 requires 223.0844). νmax (CHCl3): 1795 (β-lactam C=O), 1735 (ester C=O), 1710 (sh)(C=C) cm-1. δ(CDCl3): 1.56 (1, J 12 Hz, 1H, C(11)H), 2.0-2.8 (complex, 4H), 2.93 (d, J 16 Hz, 1H C(4)H), 3.29 (dd, J 16, 2 Hz, 1H, C(4)H), 3.65 (s, 3H, CO2CH3), 4.10 (ddd, J 12, 4, 2 Hz, 1H C(1)H), 5.11 (m, 2H, C(5)H and C(8)H). m/e: 223 (M+, 20%), 195 (33), 192(25), 182(3), 167(10), 164(17), 154(40), 122(30), 121(15), 95(100), 94(24). Isomer II of the title compound was also obtained as a colourless gum (45 mg), [α]D25 =+181.9° (c 1.0, CHCl3). Found: M, 223.0849; C11H13NO4 requires 223.0844). νmax (CHCl3): 1792 (β-lactam C=O), 1735 (ester C=O), 1710 (sh)(C=C) cm-1. δ(CDCl3): 1.55 (dt, J 6, 12 Hz, 1H C(11)H), 2.0-3.0 (complex, 4H) 2.92 (d, J 16 Hz, 1H, C(4)H), 3.28 (dd, J 16, 2 Hz, 1H C(4)H), 3.69 (s, 3H, CO2CH3), 4.05 (ddd, J 12, 5, 2 Hz, 1H, C(1)H), 5.10 (m, 2H, C(5)H, C(8)H). m/e: 223 (M+ , 6%), 195(22), 192(17), 182(14), 167(8), 164(10), 154(3), 122(37), 121(95), 95(52), 94(20), 55(100).

reactant | Clavulanic acid | 3.0 mmole | C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)O | C8H9NO5
reactant | N,N-dimethylformamide dimethylacetal | 3.35 mmole, 0.4 g | COC(N(C)C)OC | C5H13NO2
reactant | charcoal | C | CH4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | hydroquinone | 20 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
product | (5R)-3-vinyl-7-oxo-4-oxa-1-azabicyclo[3.2.0]-hept-2-ene | 2.5 mmole, 340 mg | C(=C)C1=CN2C(C[C@H]2O1)=O | C7H7NO2
